US05187237
Production of 4-benzoyloxybiphenyl
128 ml benzoyl chloride is dripped into a solution of 170 g 4-hydroxybiphenyl in 500 ml pyridine, at 20° C.; subsequently, the reaction mixture is heated under reflux for 30 min. After cooling, the reaction mixture is mixed with a solution of 500 ml concentrated hydrochloric acid and 750 ml water. The remaining precipitate is filtered off, washed neutral with water, dried and recrystallized from n-butanol (melting point: 150° C.); yield: 94%.

reactant | benzoyl chloride | 128 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-hydroxybiphenyl | 170 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | hydrochloric acid | 500 ml | Cl | ClH
reactant | water | 750 ml | O | H2O
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzoyloxybiphenyl | yield: 94% | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C1=CC=CC=C1 | C19H14O2
